US03981886
2-Amino-5-ethoxy-1,3-bis[(2-bromophenoxy)methyl]-1H-benzimidazol-3-ium chloride
Following the procedure of Example 2 and replacing 2-aminobenzimidazole with 2-amino-5-ethoxybenzimidazole and replacing 2-bromo-4-chlorophenyl chloromethyl ether with 2-bromophenyl chloromethyl ether, the title compound is obtained.

reactant | 2-amino-5-ethoxybenzimidazole | NC=1NC2=C(N1)C=CC(=C2)OCC | C9H11N3O
reactant | 2-bromophenyl chloromethyl ether | ClCOC1=C(C=CC=C1)Br | C7H6BrClO
product | 2-Amino-5-ethoxy-1,3-bis[(2-bromophenoxy)methyl]-1H-benzimidazol-3-ium chloride | [Cl-].NC1=[N+](C2=C(N1COC1=C(C=CC=C1)Br)C=CC(=C2)OCC)COC2=C(C=CC=C2)Br | InChI=1S/C23H21Br2N3O3.ClH/c1-2-29-16-11-12-19-20(13-16)28(15-31-22-10-6-4-8-18(22)25)23(26)27(19)14-30-21-9-5-3-7-17(21)24;/h3-13,26H,2,14-15H2,1H3;1H
